US09422236B2
Step-10 Preparation of 2,2-difluoro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(6-(S-methylsulfonimidoyl)pyridin-3-yl)phenyl)propan-2-yl)acetamide
To a stirred solution of 2,2-difluoro-1-((4R,5R)-4-(fluoromethyl)-2,2-dimethyl-5-(4-(6-(methylsulfonimidoyl)pyridin-3-yl)phenyl)oxazolidin-3-yl)ethanone (250 mg, 0.567 mmol) in DCM (8 mL) is added TFA (1 mL) at 0° C. The reaction mixture is allowed to stir at room temperature for 4 h. Volatiles are removed under reduced pressure and crude is diluted using aqueous sodium bicarbonate and extracted with ethyl acetate. Organic layer is dried over sodium sulphate, concentrated and purified by silica gel column chromatography (100-200 mesh size) using 8% methanol in DCM as an eluent to afford the title compound (170 mg) as a brown solid. 1NMR (400 MHz, DMSO) δ: 3.19 (d, 3H, J=0.76 Hz), 4.32-4.37 (m, 1.5H), 4.42-4.46 (m, 0.5H), 4.48 (bs, 1H), 4.53-4.56 (m, 0.5H), 4.66-4.69 (m, 0.5H), 4.91 (t, 1H), 5.97 (d, 1H, J=4.48 Hz), 6.20 (t, 1H, J=53.72 Hz), 7.51 (d, 2H, J=8.24 Hz), 7.79 (d, 2H, J=8.28 Hz), 8.12 (d, 1H, J=8.24 Hz), 8.36-8.39 (dd, 1H, J1=2.32 Hz, J2=8.24 Hz), 8.87 (d, 1H, J=8.64 Hz), 9.03 (d, 1H, J=1.76 Hz). LC-MS (m/z): M+H=402.1.

reactant | 2,2-difluoro-1-((4R,5R)-4-(fluoromethyl)-2,2-dimethyl-5-(4-(6-(methylsulfonimidoyl)pyridin-3-yl)phenyl)oxazolidin-3-yl)ethanone | 0.567 mmol, 250 mg | FC(C(=O)N1C(O[C@@H]([C@@H]1CF)C1=CC=C(C=C1)C=1C=NC(=CC1)S(=O)(=N)C)(C)C)F | C20H22F3N3O3S
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | 2,2-difluoro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(6-(S-methylsulfonimidoyl)pyridin-3-yl)phenyl)propan-2-yl)acetamide | 170 mg | FC(C(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)C=1C=NC(=CC1)S(=O)(=N)C)O)CF)F | C17H18F3N3O3S
